US07297704B2
Step 3: 8-fluoro-3,4-dihydrodibenzo[b,d]furan-2(1H)-one
To a 250 mL flask were added CTABr (0.933 g, 2.56 mmol), NaOH (23.04 g, 576 mmol), and H2O (100 mL), and the resulting solution was warmed to 50° C. (6aR,10aS)-2-fluoro-9-methoxy-6a-nitro-6a,7,10,10a-tetrahydro-6H-benzo[c]chromen-6-one (3.75 g, 12.80 mmol) was rapidly added to the alkaline solution and left under stirring for 1 h. The green solution was then cooled to 0° C., and added dropwise to a solution of H2SO4 (3.75 M, 100 mL) also cooled to 0° C. The mixture was left stirring at 0° C. for 5 min, and was then allowed to stir at RT for 1 h. The mixture was then saturated with brine, and extracted with EtOAc. The organic layer was then dried over anhydrous Na2SO4, and concentrated under reduced pressure. Purification by flash chromatography on silica gel afforded the product as a white solid (0.50 g, 19%); MS (EI) m/z=204 [M+].

reactant | NaOH | 576 mmol, 23.04 g | [OH-].[Na+]
reactant | (6aR,10aS)-2-fluoro-9-methoxy-6a-nitro-6a,7,10,10a-tetrahydro-6H-benzo[c]chromen-6-one | 12.80 mmol, 3.75 g | FC=1C=C2[C@H]3[C@@](C(OC2=CC1)=O)(CC=C(C3)OC)[N+](=O)[O-] | C14H12FNO5
reactant | H2SO4 | 3.75 M, 100 mL | OS(=O)(=O)O | H2O4S
catalyst | CTABr | 2.56 mmol, 0.933 g | CCCCCCCCCCCCCCCC[N+](C)(C)C.[Br-]
solvent | H2O | 100 mL | O | H2O
product | 8-fluoro-3,4-dihydrodibenzo[b,d]furan-2(1H)-one | 0.50 g, 19% | FC=1C=CC2=C(C3=C(O2)CCC(C3)=O)C1 | C12H9FO2
